US07705053B2
Preparation of methyl 4-bromo-3-[(E)-2-(4-chlorophenyl)-vinyl]-benzoate
The captioned compound was synthesized from diethyl 4-chlorobenzylphosphonate and methyl 3-formyl-4-bromobenzoate in accordance with the same procedure as in the manufacturing method described in step A of Example 2-2-1.

reactant | diethyl 4-chlorobenzylphosphonate | ClC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16ClO3P
reactant | methyl 3-formyl-4-bromobenzoate | C(=O)C=1C=C(C(=O)OC)C=CC1Br | C9H7BrO3
product | methyl 4-bromo-3-[(E)-2-(4-chlorophenyl)-vinyl]-benzoate | BrC1=C(C=C(C(=O)OC)C=C1)\C=C\C1=CC=C(C=C1)Cl | C16H12BrClO2
